US07622583B2
(3-Amino-5-chloro-pyridin-2-yl)-(2-methoxy-phenyl)-methanone was prepared from 2-methoxybenzaldehyde and 5-chloro-2-iodo-3-nitro-pyridine in three steps according to the General Procedure C. MS m/z: 263.1 (M+H).

reactant | 2-methoxybenzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | 5-chloro-2-iodo-3-nitro-pyridine | ClC=1C=C(C(=NC1)I)[N+](=O)[O-] | C5H2ClIN2O2
product | (3-Amino-5-chloro-pyridin-2-yl)-(2-methoxy-phenyl)-methanone | NC=1C(=NC=C(C1)Cl)C(=O)C1=C(C=CC=C1)OC | C13H11ClN2O2
